US05334740
4,5-(Dimethylmethylenedioxy)-3-hydroxy-6-heptenenitrile (3.54 g) was dissolved in 50 ml of methylene chloride under a nitrogen atmosphere, and a catalytic amount of pyridinium p-toluenesulfonate was added under ice cooling, followed by adding dropwise 2.57 ml of ethyl vinyl ether. After stirring for 2 hours, the reaction mixture was poured into a saturated sodium hydrogen aqueous solution, and extracted with diethyl ether. The organic layer was washed with a saturated sodium chloride aqueous solution. The obtained organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to provide 4.41 g of 4,5-(dimethylmethylenedioxy)-3-(1-ethoxyethoxy)-6-heptenenitrile having the following properties (yield 91%).

reactant | 4,5-(Dimethylmethylenedioxy)-3-hydroxy-6-heptenenitrile | 3.54 g | CC1(OC(C(CC#N)O)C(C=C)O1)C | C10H15NO3
reactant | pyridinium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | ethyl vinyl ether | 2.57 ml | C(=C)OCC | C4H8O
reactant | sodium hydrogen | [Na].[H][H]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4,5-(dimethylmethylenedioxy)-3-(1-ethoxyethoxy)-6-heptenenitrile | 4.41 g, yield 91% | CC1(OC(C(CC#N)OC(C)OCC)C(C=C)O1)C | C14H23NO4
